US04223132
A mixture of benzyl phenylacetate (218 mg), methylene chloride (2 ml), aluminum chloride (357 mg), and nitromethane (1 ml) is stirred for 1 hour under ice cooling. The mixture is acidified with cold dilute hydrochloric acid and extracted with methylene chloride. The organic layer is extracted again with 5% aqueous sodium hydrogen carbonate solution. The aqueous extract is acidified with hydrochloric acid, and extracted with ethyl acetate. The organic layer is dried over sodium sulfate and concentrated to give phenylacetic acid (114 mg) melting at 77° C. Yield: 87%.

reactant | benzyl phenylacetate | 218 mg | C1(=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O2
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
reactant | aluminum chloride | 357 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | nitromethane | 1 ml | [N+](=O)([O-])C | CH3NO2
product | phenylacetic acid | 114 mg, Yield: 87% | C1(=CC=CC=C1)CC(=O)O | C8H8O2
